US05558978
A mixture of 7 g (43 mmol) of 4-vinylphenylacetic acid, 12.0 g (142 mmol) of 3,4-dihydro-2H-pyran and 2 drops of 32% hydrochloric acid is warmed at 45° C. for 90 minutes in a 50 ml three-necked round-bottom flask fitted with magnetic stirrer and nitrogen blanketing system. 100 ml of ether are then added. The organic phase is then washed twice with 50 ml of 1 N sodium hydroxide solution in each case and twice with 50 ml of water in each case, dried over magnesium sulfate and evaporated, giving a colourless oil, which is recrystallized from three times the amount of n-hexane, giving 7.5 g (70% of theory) of tetrahydro-2H-pyran-2-yl 4-vinylphenylacetate having a melting point of 34° C. 1H-NMR (CDCl3, 300 MHz): δ [ppm] 7.4-7.1/m/4H 6.68/dd/1H 5.98/dd/1H 5.73/dd/1H 5.22/dd/1H -3.7/m/2H 3.64/s/2H 1.9-1.5/m/6H

reactant | 4-vinylphenylacetic acid | 43 mmol, 7 g | C(=C)C1=CC=C(C=C1)CC(=O)O | C10H10O2
reactant | 3,4-dihydro-2H-pyran | 142 mmol, 12.0 g | O1CCCC=C1 | C5H8O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
product | tetrahydro-2H-pyran-2-yl 4-vinylphenylacetate | 7.5 g, 70% | C(=C)C1=CC=C(C=C1)CC(=O)OC1OCCCC1 | C15H18O3
